US07087597B1
Ethyl 2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-methoxybenzyl)oxy]-5-pyrimidinecarboxylate
To a solution of ethyl 4-hydroxy-2-(2,3-dihydro-1H-indol-1-yl)-5-pyrimidinecarboxylate (500 mg, 1.75 mmol) in N,N-dimethylformamide (10 mL) were added potassium carbonate (500 g, 4 mmol), sodium iodide (300 mg, 2 mmol) and 4-methoxybenzyl chloride (0.29 mL, 2 mmol), and the mixture was stirred at 80° C. for 18 h. The reaction mixture was allowed to cool to room temperature and water was added. The precipitated crystals were collected by filtration, washed several times with cold water and cold ether, and dried to give the title compound (550 mg, 78%).

reactant | ethyl 4-hydroxy-2-(2,3-dihydro-1H-indol-1-yl)-5-pyrimidinecarboxylate | 1.75 mmol, 500 mg | OC1=NC(=NC=C1C(=O)OCC)N1CCC2=CC=CC=C12 | C15H15N3O3
reactant | potassium carbonate | 4 mmol, 500 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 2 mmol, 300 mg | [I-].[Na+]
reactant | 4-methoxybenzyl chloride | 2 mmol, 0.29 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl 2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-methoxybenzyl)oxy]-5-pyrimidinecarboxylate | 550 mg, 78% | N1(CCC2=CC=CC=C12)C1=NC=C(C(=N1)OCC1=CC=C(C=C1)OC)C(=O)OCC | C23H23N3O4
